US04479901
Potassium hydride (93.6 mg as a 35% oil dispersion, 0.82 mmol) was suspended in anhydrous tetrahydrofuran (2.5 mL) under nitrogen. 1-Naphthol (72 mg, 0.5 mmole) was added and the mixture was stirred until hydrogen evolution ceased (about 5 minutes) to produce potassium naphtholate. N-Fluoro-N-t-butyl-p-toluenesulfonamide (122 mg, 0.5 mmole) was dissolved in anhydrous tetrahydrofuran (2.5 mL) and the solution was added dropwise to the potassium naphtholate. After 20 minutes the reaction mixture was diluted with ether (100 mL), washed with aqueous 1N oxalic acid solution (30 mL), water (30 mL), and saturated aqueous sodium chloride solution (30 mL), and then dried over anhydrous magnesium sulfate. Filtration, removal of solvent under reduced pressure, and purification by flash column chromatography (silica, 25% methylene chloride in hexane) yielded 2-fluoro-1-naphthol (49 mg, 60% yield) as a white crystalline solid. This material, and an additional sample prepared by this procedure, were analyzed and provided the following results: 1H NMR (90 MHz, CDCl3) δ5.58 (b, 1H, OH), 7.00-8.30 (m, 6H, aromatic); 19F NMR (94.1 MHz, CDCl3) -146.78(m); HRMS calcd. for C10H7OF: 162.0480; found: 162.0439.

reactant | Potassium hydride | [H-].[K+]
reactant | 1-Naphthol | 0.5 mmole, 72 mg | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | potassium naphtholate | C1(=CC=CC2=CC=CC=C12)[O-].[K+] | InChI=1S/C10H8O.K/c11-10-7-3-5-8-4-1-2-6-9(8)10;/h1-7,11H;/q;+1/p-1
